US04072680
(a) 2-Chloro-N-(1H-pyrazol-5-yl)-3-pyridinecarboxamide
175 g. of 2-chloro-3-pyridinecarboxylic acid chloride are dissolved in 750 ml. of anhydrous dioxane containing 110 g. of triethylamine. At 10°, 83 g. of 5-aminopyrazole dissolved in 100 ml. of dioxane are added dropwise with stirring. After the addition is completed, the mixture is stirred overnight at room temperature, filtered and the precipitate washed with dioxane. The solvent is removed in vacuo and the oily residue crystallized with ethyl acetate. The product, 2-chloro-N-(1H-pyrazol-5-yl)-3-pyridinecarboxamide, is recrystallized from ethyl acetate, yield: 103 g. (46%); m.p. 162.8°.

reactant | 2-chloro-3-pyridinecarboxylic acid chloride | ClC1=NC=CC=C1C(=O)Cl | C6H3Cl2NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 5-aminopyrazole | NC1=CC=NN1 | C3H5N3
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 110 g | O1CCOCC1 | C4H8O2
product | 2-Chloro-N-(1H-pyrazol-5-yl)-3-pyridinecarboxamide | ClC1=NC=CC=C1C(=O)NC1=CC=NN1 | C9H7ClN4O
